US07109199B2
N-(5-Bromo-1H-pyrazolo[3,4-b]pyridin-3-yl-butyramide
Butyryl chloride (2.1 ml, 20.7 mmol) was added to a stirred solution of 5-bromo-1H-pyrazolo[3,4-b]pyridin-3-ylamine (4.0 g, 18.8 mmol) in pyridine (50 ml). The solution was heated at reflux for 12 hours then concentrated in vacuo. Addition of water afforded a solid which was filtered and dried to afford the title compound.

reactant | Butyryl chloride | 20.7 mmol, 2.1 ml | C(CCC)(=O)Cl | C4H7ClO
reactant | 5-bromo-1H-pyrazolo[3,4-b]pyridin-3-ylamine | 18.8 mmol, 4.0 g | BrC=1C=C2C(=NC1)NN=C2N | C6H5BrN4
reactant | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 5-Bromo-1H-pyrazolo[3,4-b]pyridin-3-yl-butyramide | BrC=1C=C2C(=NC1)NN=C2C(C(=O)N)CC | C10H11BrN4O
